US04792547
6-(4-Methyl-1-piperazinyl)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide hydrochloride hydrate
To a suspension of 2.26 of 6-chloro-N-(1H-5-tetrazolyl) pyrazine-2-carboxamide in 30 ml of ethanol, 5.55 ml of N-methylpiperazine was added, and the mixture was refluxed for 6 hours. The reaction mixture was adjusted with ethanolic hydrogen chloride to pH 1. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 2.27 g of the desired compound as pale yellow crystals, m.p. 246°-250 ° C. (decomp.).

reactant | 6-chloro-N-(1H-5-tetrazolyl) pyrazine-2-carboxamide | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | N-methylpiperazine | 5.55 ml | CN1CCNCC1 | C5H12N2
product | 6-(4-Methyl-1-piperazinyl)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide hydrochloride hydrate | O.Cl.CN1CCN(CC1)C1=CN=CC(=N1)C(=O)NC1=NN=NN1 | InChI=1S/C11H15N9O.ClH.H2O/c1-19-2-4-20(5-3-19)9-7-12-6-8(13-9)10(21)14-11-15-17-18-16-11;;/h6-7H,2-5H2,1H3,(H2,14,15,16,17,18,21);1H;1H2
